US06977262B2
5-Cyano-6-cyclopropyl-4,7-dihydro-4-(3-methyl-2-nitrophenyl)-2H-pyrazolo[3,4-b]pyridine
The title compound was prepared from methyl cyclopropanecarboxylate, 3-methyl-2-nitrobenzaldehyde and 3-aminopyrazole in the same manner as in Example 94.

reactant | methyl cyclopropanecarboxylate | C1(CC1)C(=O)OC | C5H8O2
reactant | 3-methyl-2-nitrobenzaldehyde | CC=1C(=C(C=O)C=CC1)[N+](=O)[O-] | C8H7NO3
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 5-Cyano-6-cyclopropyl-4,7-dihydro-4-(3-methyl-2-nitrophenyl)-2H-pyrazolo[3,4-b]pyridine | C(#N)C=1C(C=2C(NC1C1CC1)=NNC2)C2=C(C(=CC=C2)C)[N+](=O)[O-] | C17H15N5O2
